US07414050B2
a) Acetic acid 3-acetoxy-2-(4-amino-3-cyclohex-1-enyl-phenyl)-propyl ester
The title compound was prepared according to the Suzuki coupling procedure of Example 9, step (a) using acetic acid 3-acetoxy-2-(4-amino-3-bromo-phenyl)-propyl ester (as prepared above) and cyclohex-1-enyl boronic acid: Mass spectrum, (ESI, m/z): Calcd. for C19H25NO4, 332.1 (M+H). found 332.1.

reactant | acetic acid 3-acetoxy-2-(4-amino-3-bromo-phenyl)-propyl ester | C(C)(=O)OCC(COC(C)=O)C1=CC(=C(C=C1)N)Br | C13H16BrNO4
reactant | cyclohex-1-enyl boronic acid | C1(=CCCCC1)B(O)O | C6H11BO2
product | Acetic acid 3-acetoxy-2-(4-amino-3-cyclohex-1-enyl-phenyl)-propyl ester | C(C)(=O)OCC(COC(C)=O)C1=CC(=C(C=C1)N)C1=CCCCC1 | C19H25NO4
